** sch_path: /home/jyhong/projects/lna_optimization_v2/CG_LNA_NoiseFigure.sch
**.subckt My_LNA
C_1 net9 net1 {c_1} m=1
C_S3 net3 Vout {c_s3} m=1
V_DD VDD GND {v_dd}
XM5 net1 Vb4 net4 GND sky130_fd_pr__nfet_01v8 L={l_m} W={w_m5} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V_b3 Vb3 GND {v_b3}
R_S5 net4 GND {r_s5} m=1
C_S4 net1 net2 {c_s4} m=1
R_b1 Vb1 net2 {r_b} m=1
XM1 net5 net2 GND GND sky130_fd_pr__nfet_01v8 L={l_m} W={w_m1} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net7 Vb3 net1 GND sky130_fd_pr__nfet_01v8 L={l_m} W={w_m4} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
R_D1 VDD net5 {r_d1} m=1
XM3 VDD net8 net3 GND sky130_fd_pr__nfet_01v8 L={l_m} W={w_m3} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net3 net6 GND GND sky130_fd_pr__nfet_01v8 L={l_m} W={w_m2} nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V_b1 Vb1 GND {v_b1}
V_b2 Vb2 GND {v_b2}
C_D1 net5 net6 {c_d1} m=1
R_b2 Vb2 net6 {r_b} m=1
C_D4 net7 net8 {c_d4} m=1
R_b3 VDD net8 {r_b} m=1
R_D4 VDD net7 {r_d4} m=1
V_b4 Vb4 GND {v_b4}
R_s Vin net9 50 m=1
**** begin user architecture code


** design_variables_start
.param v_dd = 1.8
.param r_b  = 1e+4
.param c_1  = 1e-11
.param l_m  = 0.15

.param v_b1 = 0.9053
.param v_b2 = 0.9053
.param v_b3 = 0.9053
.param v_b4 = 0.9053
.param r_d1 = 105
.param r_d4 = 105
.param r_s5 = 105
.param c_d1 = 2.092e-12
.param c_d4 = 2.092e-12
.param c_s3 = 2.092e-12
.param c_s4 = 2.092e-12
.param w_m1 = 68.44
.param w_m2 = 24.11
.param w_m3 = 24.11
.param w_m4 = 24.11
.param w_m5 = 24.11
** design_variables_end

.param Vin_amp = 5m
.param f1 = 2.399e9
.param f2 = 2.401e9
B1 Vin 0 v = {Vin_amp*(sin(2*PI*f1*time) + sin(2*PI*f2*time))}

.option method=gear reltol=1e-3
.tran 20p 10u 2u 10p

.lib /home/jyhong/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.control
set filetype=ascii
let target_frequency = 2.400e+09
op $ For convergence aids


run
fft v(Vout)
write /home/jyhong/projects/lna_optimization_v2/parallel_simulations/FFT_0.csv v(vout)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end